US06414011B1
1H NMR (DMSO-d6): δ15.0 (bs, 2H), 9.25 (s, 1H), 8.18 (s, 1H), 7.98 (d, J=8.4 Hz, 2H), 7.77 (d, J=9.0 Hz, 2H), 7.29 (d, J=8.7 Hz, 2H), 7.21 (d, J=8.7 Hz, 2H); mp 230-232° C. The intermediate 1-[4-(4-trifluoromethylphenoxy)phenyl]ethanone was prepared from 4-hydroxyacetophenone and 4-fluorobenzotrifluoride using the method described for the synthesis of 1-[4-(4-fluorophenoxy)phenyl]ethanone.

reactant | 4-hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | 4-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | 1-[4-(4-fluorophenoxy)phenyl]ethanone | FC1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1 | C14H11FO2
product | 1-[4-(4-trifluoromethylphenoxy)phenyl]ethanone | FC(C1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1)(F)F | C15H11F3O2
